US04933458
In a mixture of 70 ml of acetone and 7 ml of water were suspended 1.9 g of 2-mercapto-3-methylquinoxaline and 1.95 g of 2-picolyl chloride hydrochloride. To the suspension was added 4.0 g of potassium carbonate. The resulting mixture was stirred at room temperature for 1 hr., and the solvent was removed under reduced pressure. The residue was extracted with chloroform after addition of chloroform and water. The organic layer was separated and dried over sodium sulfate. The sodium sulfate was removed by filtration, and the filtrate was placed under reduced pressure to remove the solvent. The residue was dissolved in 20 ml of ethanol. To the solution under chilling with ice were successively added 3.2 ml of 5.2N ethanolic hydrochloric acid and ether to precipitate crystals. The crystals were collected by filtration to give 2.25 g of 3-methyl-2-(2-pyridylmethylthio)quinoxaline hydrochloride as a violet crystalline powder.

reactant | 2-mercapto-3-methylquinoxaline | 1.9 g | SC1=NC2=CC=CC=C2N=C1C | C9H8N2S
reactant | 2-picolyl chloride hydrochloride | 1.95 g | Cl.N1=C(C=CC=C1)CCl
reactant | potassium carbonate | 4.0 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 70 ml | CC(=O)C | C3H6O
solvent | water | 7 ml | O | H2O
product | 3-methyl-2-(2-pyridylmethylthio)quinoxaline hydrochloride | 2.25 g | Cl.CC=1C(=NC2=CC=CC=C2N1)SCC1=NC=CC=C1 | InChI=1S/C15H13N3S.ClH/c1-11-15(19-10-12-6-4-5-9-16-12)18-14-8-3-2-7-13(14)17-11;/h2-9H,10H2,1H3;1H
